US07452993B2
3-amino-6-iodo-pyrazine-2-carboxylic acid methyl ester (45 g, 161 mmol) was dissolved in 750 ml of THF. 90 ml of water and 40 ml of a 4 M solution of lithium hydroxide in water was added. The mixture was stirred at room temperature for 2 hours or until TLC analysis showed only baseline material. A solution of 10% citric acid in water was added to adjust the pH to about 3-4. The mixture was diluted with dichloromethane and the organic phase was separated. The aqueous layer was extracted three times with dichloromethane and the combined organic phases were dried over sodium sulfate and evaporated. The residue was dried in vacuo to afford 37.0 g (140 mmol; 87% yield) of 3-amino-6-iodo-pyrazine-2-carboxylic acid as a yellow powder. 1H-NMR (d6-DMSO) δ: 11.70 s, weak, 8.44 [1H] s, 7.50 [2H] s,br. MS: m/z 266 [MH+].

reactant | 3-amino-6-iodo-pyrazine-2-carboxylic acid methyl ester | 161 mmol, 45 g | COC(=O)C1=NC(=CN=C1N)I | C6H6IN3O2
reactant | lithium hydroxide | [OH-].[Li+]
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | THF | 750 ml | C1CCOC1 | C4H8O
solvent | water | O | H2O
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | water | 90 ml | O | H2O
product | 3-amino-6-iodo-pyrazine-2-carboxylic acid | 140 mmol, 37.0 g, 87% yield | NC=1C(=NC(=CN1)I)C(=O)O | C5H4IN3O2
